US04144047
Preparation of 5-(α,α,α-Trifluoro-m-Tolyl)-1,3,4-Oxathiazol-2-One.
α,α,α-Trifluoro-m-toluamide (82.7 g, 0.437 mol) and chlorocarbonylsulfenyl chloride (86 g, 0.667 mol, 53% excess) were reacted under the conditions of Example 2 for 0.5 hours. The light yellow residue was dissolved in ethyl acetate and cooled to -78°. The white precipitate was filtered and washed with hexane to yield 93.14 g (0.377 mol, 86.2%) of white solid, m.p. 85°-86.5°.

reactant | α,α,α-Trifluoro-m-toluamide | 0.437 mol, 82.7 g | FC(C1=CC(=CC=C1)C(=O)N)(F)F | C8H6F3NO
reactant | chlorocarbonylsulfenyl chloride | 0.667 mol, 86 g | ClC(=O)SCl | CCl2OS
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5-(α,α,α-Trifluoro-m-Tolyl)-1,3,4-Oxathiazol-2-One | 0.377 mol, 93.14 g, 86.2% | FC(C1=CC(=CC=C1)C1=NSC(O1)=O)(F)F | C9H4F3NO2S
